US07544697B2
A solution of di(tert-butyl) 1-[3-(3-methylisoxazol-5-yl)propyl]-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate (0.471 g, 0.856 mmol) in 6 M HCl in ethanol (5 mL) was heated at 60° C. for 1 hour. The solution was allowed to cool to room temperature, then was concentrated under reduced pressure to yield an oil that was dissolved in water (20 mL). The solution was adjusted to pH 12 with a few drops of 50% aqueous potassium hydroxide and then to pH 14 with 1 M aqueous potassium hydroxide. A precipitate formed that was isolated by filtration and crystallized from ethyl acetate/hexanes. The crystals were isolated by filtration and dried under vacuum at 70° C. to afford 0.123 g 1-[3-(3-methylisoxazol-5-yl)propyl]-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine as white needles, mp 183.0-184.0° C.

reactant | di(tert-butyl) 1-[3-(3-methylisoxazol-5-yl)propyl]-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 0.856 mmol, 0.471 g | CC1=NOC(=C1)CCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C30H39N5O5
reactant | potassium hydroxide | 1 M | [OH-].[K+]
solvent | HCl | 6 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | potassium hydroxide | a few drops | [OH-].[K+]
product | 1-[3-(3-methylisoxazol-5-yl)propyl]-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.123 g | CC1=NOC(=C1)CCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C20H23N5O
